US06303780B1
Part D Preparation of 2′-Amino-5′-chloro-3′-(t-butyldimethylsilyloxy)-2,2,2-trifluoroacetophenone
To a stirred, cooled (0° C.) solution of 29.3 g (122 mmol) of 2′-amino-5′-chloro-3′-hydroxy-2,2,2-trifluoroacetophenone in 280 mL of DMF was added 23.8 g (350 mmol) of imidazole followed by 66 g (250 mmol) of t-butyldimethylsilyl trifluoromethanesulfonate over 10 min. The reaction was stirred 5 h at 0° C. and diluted with 800 mL of 1:1 ether-hexanes. The solution was washed twice with water and once with brine, dried (MgSO4) and concentrated under reduced pressure to give a dark oil. The crude product was rapidly passed through an 800 g plug of silica gel (elution with hexanes followed by 6:1 hexanes-ether) to afford, after evaporation of solvent, 42.5 g (98%) of 2′-amino-5′-chloro-3′-(t-butyldimethylsilyloxy)-2,2,2-trifluoroacetophenone as a yellow oil. The product solidified after extended evacuation at 0.01 torr to give a yellow solid, mp 45-46.5° C. 1H NMR (300 MHz, CDCl3) δ 7.34-7.36(m, 1H); 6.85(d, 1H, J=2.2 Hz); 6.7-6.8(br. s, 2H); 1.03(s, 9H); 0.30(s, 6H). High resolution mass spec: calculated for C14H20NO2ClF3Si(M+H)+: 354.0904, found: 354.0900. Analysis calculated for C14H19NO2ClF3Si: C, 47.52; H, 5.41; N, 3.97; Cl, 10.02. Found: C, 47.71; H, 5.36; N, 3.87; Cl, 10.02.

reactant | 2′-amino-5′-chloro-3′-hydroxy-2,2,2-trifluoroacetophenone | 122 mmol, 29.3 g | NC1=C(C=C(C=C1O)Cl)C(C(F)(F)F)=O | C8H5ClF3NO2
reactant | imidazole | 350 mmol, 23.8 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl trifluoromethanesulfonate | 250 mmol, 66 g | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | DMF | 280 mL | CN(C)C=O | C3H7NO
product | 2′-Amino-5′-chloro-3′-(t-butyldimethylsilyloxy)-2,2,2-trifluoroacetophenone | NC1=C(C=C(C=C1O[Si](C)(C)C(C)(C)C)Cl)C(C(F)(F)F)=O | C14H19ClF3NO2Si
